data/core_train_final.csv
"[H:6][C:5]1=[CH:7][C:8]([C:10]2=[CH:11][C:12]3=[C:13]([CH:14]=[CH:15][CH:16]=[CH:17]3)[C:2](=[O:1])[C:3]2=[CH:4]1)[H:9]>>[H:9][C:8]1=[CH:7][C:5]([CH:4]=[C:3]2[C:10]1=[CH:11][C:12]3=[C:13]([C:2]2=[O:1])[CH:14]=[CH:15][CH:16]=[CH:17]3)[H:6] 8-7,8; 5,7-7,8; 5,7-5",Room Temperature,Propagation,resonance
"[H:20][O:21][CH:22]/C=C\C=C/C=O.[OH:10]>>[H:20][OH:10].C(=C\[CH:22]=[O:21])\C=C/C=O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"C[C:10]1CCCC1.[Cl:20][Cl:21]>>C[C:10]1(CCCC1)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CCC=C(C)C)[CH:21]=[CH2:20].[CH2:10]C(=O)O>>CC(CCC=C(C)C)[CH:21][CH2:20][CH2:10]C(=O)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][C:21]1(CCCC1)C.[Br:10]>>[H:20][Br:10].C[C:21]1CCCC1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"O[O:3][H:2].[O:1]OC>>O[O:3].[H:2][O:1]OC 1-1,2;3,2-1,2;3,2-3",Room Temperature,Propagation,abstraction
"C[C:10](C)C#N.[CH2:20]=[CH:21]N1CCCC1=O>>C[C:10](C)([CH2:20][CH:21]N1CCCC1=O)C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:3][C:2]([CH3:1])([CH3:4])[N:5]=[N:6][C:7]([H:9])([CH3:8])[CH3:10].[Ar]>>[Ar].[H:3][C:2]([CH3:1])[CH3:4].[H:9][C:7]([CH3:8])[CH3:10].[N:5]#[N:6] 6,7-7;6,7-5,6;2,5-6,5;2,5-2",Heat,Initiation,homolyze
"[I:1].[CH3:2]>>[I:1][CH3:2] 1-1,2;2-1,2",Room Temperature,Termination,recombine
"[CH2:1][C:2]1=[CH:3][CH:4]=[CH:5][CH:6]=[CH:7]1.[CH2:8][C:9]1=[CH:10][CH:11]=[CH:12][CH:13]=[CH:14]1>>[CH:12]1=[CH:11][CH:10]=[C:9]([CH:14]=[CH:13]1)[CH2:8][CH2:1][C:2]2=[CH:3][CH:4]=[CH:5][CH:6]=[CH:7]2 1-1,8;8-1,8",Room Temperature,Termination,recombine
"[H:1][C:2](=[O:4])[H:3].[H:6][O:5]>>[H:1][C:2]=[O:4].[H:6][O:5][H:3] 2,3-3,5;5-5,3;2,3-2",Room Temperature,Propagation,abstraction
"C[C:10]1CCCC1.[Br:20]>>C[C:10]1(CCCC1)[Br:20] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[N:10]=O.[O:20]Br>>[N:10](=O)[O:20]Br 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][CH2:2][CH2:3][CH2:4][Sn:5]([CH2:6][CH2:7][CH2:8][CH3:9])([CH2:13][CH2:14][CH2:15][CH3:16])[CH2:10][CH:11]=[CH2:12].[CH3:28][O:27][C:26](=[O:29])[CH:25]1[CH2:24][C:23]2[CH:22]([N:21]1[C:18](=[O:17])[O:19][CH3:20])[N:30]([C:40]3=[C:41]2[CH:42]=[CH:43][CH:44]=[CH:45]3)[S:31](=[O:38])(=[O:39])[C:32]4=[CH:33][CH:34]=[CH:35][CH:36]=[CH:37]4>>[CH3:1][CH2:2][CH2:3][CH2:4][Sn:5]([CH2:6][CH2:7][CH2:8][CH3:9])([CH2:13][CH2:14][CH2:15][CH3:16])[CH2:10][CH:11][CH2:12][C:23]12[CH2:24][CH:25]([N:21]([CH:22]1[N:30]([C:40]3=[C:41]2[CH:42]=[CH:43][CH:44]=[CH:45]3)[S:31](=[O:38])(=[O:39])[C:32]4=[CH:33][CH:34]=[CH:35][CH:36]=[CH:37]4)[C:18](=[O:17])[O:19][CH3:20])[C:26](=[O:29])[O:27][CH3:28] 23-12,23; 11,12-11; 11,12-12,23",Room Temperature,Propagation,addition
"[H:1][C:2]1[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1.[Cl:8][Cl:9]>>[H:1][C:2]1([CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1)[Cl:8].[Cl:9] 2-2,8;8,9-2,8;8,9-9",Room Temperature,Propagation,abstraction
"[H:1][C:2]([H:3])([H:4])[C:5]1=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]1.[Br:12]>>[H:1][C:2]([H:3])[C:5]1=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]1.[H:4][Br:12] 12-4,12;2,4-4,12;2,4-2",Room Temperature,Propagation,abstraction
"[H:8][C:7]1[CH:6]=[C:5]([CH:14]=[C:11]([C:9]1=[O:10])[O:12][CH3:13])[CH:4]=[CH:3][C:2](=[O:15])[O-:1]>>[H:8][C:7]1=[C:9]([C:11](=[CH:14][C:5](=[CH:6]1)[CH:4]=[CH:3][C:2](=[O:15])[O-:1])[O:12][CH3:13])[O:10] 7-7,9; 9,10-7,9; 9,10-10",Room Temperature,Propagation,resonance
[B:2](CCC)(CCC)CCC.[O:1][O]>>[B-:2](CCC)(CCC)(CCC)[O+:1][O] 1=2,Room Temperature,Propagation,addition
"[H:10][Br:11].[CH3:1][CH2:2][C:3]1[CH2:8][CH2:7][CH2:6][CH2:5][CH:4]1[Br:9]>>[H:10][C:3]1([CH2:8][CH2:7][CH2:6][CH2:5][CH:4]1[Br:9])[CH2:2][CH3:1].[Br:11] 11,10-10,3;11,10-11;3-3,10",Room Temperature,Propagation,abstraction
"CC(C)C[CH2:20].[Cl:10][Cl:11]>>CC(C)C[CH2:20][Cl:10].[Cl:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"[OH:20][OH:21].[He]>>[He].[OH:20].[OH:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"COC(C(C(OC)=O)CC1C(CCC1[C:22]([CH2:21][H:20])C)C)=O.[H][C:10](C(OC)=O)C(OC)=O>>COC(C(C(OC)=O)CC2C(CCC2[C:22](C)=[CH2:21])C)=O.[H][C:10]([H:20])(C(OC)=O)C(OC)=O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CC(C)(CC(C[CH:10]Cl)Cl)C#N.[CH2:20]=[CH:21]Cl>>CC(C)(CC(C[CH:10]([CH2:20][CH:21]Cl)Cl)Cl)C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC1(CC(C1)[CH2:10])C.[Cl:20][Cl:21]>>CC1(CC(C1)[CH2:10][Cl:20])C.[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1(C)N([O:20][CH:10](C2=CC=CC=C2)C)C(C)(C)CCC1.[Ar]>>[Ar].C[CH:10]C3=CC=CC=C3.CC4(C)N([O:20])C(C)(C)CCC4 10,20-10;10,20-20",Heat,Initiation,homolyze
"CCC(C)[CH:10]C.[Cl:20][Cl:21]>>CCC(C)[CH:10](C)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
